US05358949
A suspension prepared by mixing 0.7 g of 3-chloroacetylamino-8-methylcarbostyril, 2.04 g of diethylamine, 1.16 ml of triethylamine in 30 ml of acetonitrile was refluxed by heating for 7.5 hours. The reaction mixture was poured in an ice-water, and the precipitate was collected by filtration, washed with water, and dried. Then the dried precipitate was dissolved in methanol, and converted into hydrochloride by using a concentrated hydrochloric acid-ethanol. Recrystallized from ethanol-water to obtain 0.52 g of 3-(2-diethylaminoacetyl)amino-8-methylcarbostyril hydrochloride. Light yellow powdery substance. Melting point: 250°-252° C. (decomposed).

reactant | 3-chloroacetylamino-8-methylcarbostyril | 0.7 g | ClCC(=O)NC=1C(NC2=C(C=CC=C2C1)C)=O | C12H11ClN2O2
reactant | diethylamine | 2.04 g | C(C)NCC | C4H11N
reactant | triethylamine | 1.16 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-(2-diethylaminoacetyl)amino-8-methylcarbostyril hydrochloride | 0.52 g | Cl.C(C)N(CC(=O)NC=1C(NC2=C(C=CC=C2C1)C)=O)CC | InChI=1S/C16H21N3O2.ClH/c1-4-19(5-2)10-14(20)17-13-9-12-8-6-7-11(3)15(12)18-16(13)21;/h6-9H,4-5,10H2,1-3H3,(H,17,20)(H,18,21);1H
